US05091387
Indene (2 ml), 1.99 g, 17.2 mmol) was dissolved in dry THF (2 ml) and stirred at -78° under nitrogen. n-Butyllithium (6.87 ml of a 2.5M solution in hexane: 17.2 mmol) was added, and the solution was then warmed to ambient temperature, stirred for 15 minutes, recooled to -78°, and added via syringe to a solution of chloroacetonitrile (1.09 ml, 1.30 g, 17.2 mmol) in THF (2 ml) stirred at -78°. After completion of the addition, the solution was diluted with ether (200 ml) and washed with 1M HCl followed by saturated sodium bicarbonate solution. The ether layer was dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on a silica gel column eluted with 10% EtOAc in hexane and the product fractions evaporated in vacuo to give 3-cyanomethylindene. 3-Cyanomethylindene (310 mg, 2.0 mmol) was dissolved in a 10% solution of conc. ammonium hydroxide in absolute ethanol. 5% Rhodium/alumina catalyst (60 mg) was added and the mixture was shaken under an atmosphere of hydrogen (40 psi) overnight. The mixture was filtered, and the filtrate was evaporated to dryness in vacuo. The residue was chromatographed on a silica gel column eluted with 93:7:0.7 CH2Cl2 :MeOH:NH4OH, and the product fractions were combined and evaporated to dryness in vacuo to provide 1-(2-aminoethyl)indane. 1-(2-Aminoethyl)indane (47 mg, 0.292 mmol) and (+)-10-camphorsulfonyl chloride (73 mg, 0.29 mmol) were combined in CH2Cl2 (2 ml), treated with triethylamine (2 drops), and stirred at ambient temperature overnight. The mixture was evaporated to dryness in vacuo and the residue chromatographed on a silica gel column eluted in with 20% EtOAc in hexane. The product fractions were combined and evaporated to dryness in vacuo. The resulting oil was dried in vacuo at ambient temperature for 3 hours to provide the title compound as a solid: (mp 52°-70°).

reactant | 3-Cyanomethylindene | 2.0 mmol, 310 mg | C(#N)CC1=CCC2=CC=CC=C12 | C11H9N
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | Rhodium/alumina | 60 mg | [Rh] | Rh
product | 1-(2-aminoethyl)indane | NCCC1CCC2=CC=CC=C12 | C11H15N
